US07790709B2
Preparation of (E)-N-(2,3-Dimethoxy-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide
According to the procedure of Example 1 (a), except substituting (2,3-dimethoxy-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.362 g, 61%) was prepared as an orange solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.67-10.64 (m, 1H), 8.36-8.32 (m, 1H), 8.09-8.02 (m, 1H), 7.52-7.47 (m, 1H), 7.31-7.22 (m, 1H), 7.08-6.95 (m, 2H), 6.69-6.64 (m, 1H), 4.78-4.62 (m, 2H), 3.80 (s, 3H), 3.73 (s, 3H), 3.01-2.85 (m, 5H), 2.56-2.49 (m, 2H); MS (ESI) m/e 382 (M+H)+.

reactant | (2,3-dimethoxy-benzyl)methylamine | COC1=C(CCN)C=CC=C1OC | C10H15NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylic acid hydrochloride | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-(2,3-Dimethoxy-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide | 0.362 g, 61% | COC1=C(CN(C(\C=C\C=2C=NC=3NC(CCC3C2)=O)=O)C)C=CC=C1OC | C21H23N3O4
